US06849345B2
1,5-Diaminonaphthalene (16.0 g, 0.101 mol) was combined with bromobenzene (47.1 g, 0.300 mol), palladium diacetate (1.2 g, 0.004 mol), tri-t-butylphosphine (4 mL), sodium t-butoxide (24.0 g, 0.26 mol), and xylene (400 mL). The mixture was heated at 140° C. with magnetic stirring under a nitrogen atmosphere. After 15 h, an additional amount of palladium diacetate (0.100 g, 0.0004 mol) was added. After heating for another 6 h, an additional amount of palladium diacetate (0.100 g, 0.0004 mol) was added. After heating for another 15 h the heat was removed. After cooling to room temperature, the solid present was filtered off and the filtrate was purified by column chromatography. This afforded 6.0 g (15% yield) of N,N,N′-triphenyl-1,5-diaminonaphthalene.

reactant | 1,5-Diaminonaphthalene | 0.101 mol, 16.0 g | NC1=CC=CC2=C(C=CC=C12)N | C10H10N2
reactant | bromobenzene | 0.300 mol, 47.1 g | BrC1=CC=CC=C1 | C6H5Br
reactant | tri-t-butylphosphine | 4 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 0.26 mol, 24.0 g | CC(C)([O-])C.[Na+]
catalyst | palladium diacetate | 0.004 mol, 1.2 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | palladium diacetate | 0.0004 mol, 0.100 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | palladium diacetate | 0.0004 mol, 0.100 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | xylene | 400 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N,N,N′-triphenyl-1,5-diaminonaphthalene | 6.0 g, 15% yield | C1(=CC=CC=C1)N(C1=CC=CC2=C(C=CC=C12)NC1=CC=CC=C1)C1=CC=CC=C1 | C28H22N2
